US05962479
4-Chloro-2,5-dimethyl-6-(2,4,6-trimethylphenyoxy)-pyrimidine
A solution of 2,4,6-trimethylphenol (2.720 g, 20 mmol) in 60 ml of dry THF was treated with NaH (60% in oil, 1.200 g, 30 mmol) at room temperature. After stirring at room temperature for 15 minutes, 2,5-dimethyl-4,6-dichloropyrimidine (3.34 g, 20 mmol) was added and the resulting mixture was heated at reflux for 15 hours. The mixture was quenched with saturated ammonium chloride and extracted with ethyl acetate. The organic layer was dried and concentrated to give 5.4528 g of beige solid. The solid was recrystallized from isopropanol to give 5.1345 g of pale yellow solid, mp 86-87° C.; high MS (C15H17CIN20) calc. 276.1025, found 276.10359. 1H NMR (CDCl3) δ6.87 (s, 2H), 2.37 (s, 6H), 2.28 (s, 3H), 2.01 (s, 6H) ppm.

reactant | 2,4,6-trimethylphenol | 20 mmol, 2.720 g | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | NaH | 30 mmol, 1.200 g | [H-].[Na+]
reactant | 2,5-dimethyl-4,6-dichloropyrimidine | 20 mmol, 3.34 g | CC1=NC(=C(C(=N1)Cl)C)Cl | C6H6Cl2N2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-Chloro-2,5-dimethyl-6-(2,4,6-trimethylphenyoxy)-pyrimidine | 5.4528 g | ClC1=NC(=NC(=C1C)OC1=C(C=C(C=C1C)C)C)C | C15H17ClN2O
